US04236005
3-Methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine
A mixture of 0.01 mole of 3-amino-4-methylpyrazole and 0.01 mole of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone in glacial acetic acid is refluxed for 6 hours. The solvent is removed and the residue dissolved in methylene chloride and passed through a column of hydrous magnesium silicate. Concentration of the eluent and addition of hexane gives the product of the example.

reactant | 3-amino-4-methylpyrazole | 0.01 mole | NC1=NNC=C1C | C4H7N3
reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | 0.01 mole | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine | CC=1C=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C14H10F3N3
